US03931407
b. 1-(3-Carboxy-4-hydroxyphenyl)-2-(3,4-dichlorophenyl)-4,5,6,7-tetrahydroindole ##SPC91##
A solution of 15 g. (0.05 mole) of 2-(3,4-dichlorophenacyl)cyclohexanone, 7.7 g. (0.05 mole) of 5-aminosalicylic acid, and 63 ml. of glacial acetic acid was heated under reflux under nitrogen for 11/2 hours, cooled and filtered. The collected solid was washed with water and recrystallized from acetonitrile to provide 19.4 g. (97%) of yellow crystals, m.p. 210°-211°.

reactant | 2-(3,4-dichlorophenacyl)cyclohexanone | 0.05 mole | ClC=1C=C(C(CC2C(CCCC2)=O)=O)C=CC1Cl | C14H14Cl2O2
reactant | 5-aminosalicylic acid | 0.05 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxy-4-hydroxyphenyl)-2-(3,4-dichlorophenyl)-4,5,6,7-tetrahydroindole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC(=C(C=C1)Cl)Cl | C21H17Cl2NO3
